Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5],3.2879842121
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17],4.565599000030001
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.36267916
[C:3]([H:4])([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-4.826703204019999
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.31355782587
[O:1]=[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.61200366231
[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.93259374299
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.62159487138
[C:2]#[C:3][C:4][C:5]([H:6])[H:7].[O:1]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])[H:7],-7.419629555
[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.639308169561
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.6975032463
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.4069011245899998
[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]#[C:7][H:8],1.88356198392
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-2.1682993549700003
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.35139531246
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.21799566427
[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.89669833617
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-2.15638001956
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.26938193698
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.191475789119999
[C:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])[H:8]>>[C:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-3.4993123248400004
[C:1].[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-5.22945907821
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],0.13075018183
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1],3.5590068008800007
[C:11]([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-8.635194811849999
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1],2.83374363429
[H:1][O:2][C:4]([C:3]([H:6])([C:10](=[C:7]([H:8])[H:9])[O:12][H:13])[H:11])[H:5]>>[H:1][O:2][C@@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[O:12][H:13],0.639577241151
[H:1][C:2]1=[C:3][O:4][C:5][O:6]1>>[H:1][C:2]#[C:3][O:4][C:5]=[O:6],-0.73436990342
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.30882803711
